US05498630
A freshly prepared solution of diazomethane in anhydrous ether was added in excess to a solution of N-[2-(2-tert-butylphenylcarboxy)-1,1-dimethylethyl]trifluoromethanesulfonamide (13.1 g) in ether. The resulting yellow solution was allowed to stand at RT overnight, then was washed with 10% HCl followed by 2.5N aq NaOH. The organic solution was dried (MgSO4), and concentrated to afford 13.0 g of pure N-methyl-N-[2-(2-tert-butylphenylcarboxy)-1,1-dimethylethyl]-trifluoromethanesulfonamide as a white solid, a 96% yield. m.p. 42°-44° C.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-[2-(2-tert-butylphenylcarboxy)-1,1-dimethylethyl]trifluoromethanesulfonamide | 13.1 g | C(C)(C)(C)C1=C(C=CC=C1)OC(=O)CC(C)(C)NS(=O)(=O)C(F)(F)F | C16H22F3NO4S
solvent | ether | CCOCC | C4H10O
product | N-methyl-N-[2-(2-tert-butylphenylcarboxy)-1,1-dimethylethyl]-trifluoromethanesulfonamide | 13.0 g, 96% yield | CN(S(=O)(=O)C(F)(F)F)C(CC(=O)OC1=C(C=CC=C1)C(C)(C)C)(C)C | C17H24F3NO4S
